US08283354B2
A solution of benzyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (0.19 g, 0.41 mmol) and MeOH (5 mL) was stirred with Pd/C (20 mg, 10% weight of Pd on carbon) under an H2 atmosphere at ambient pressure at ambient pressure overnight. Purification via silica gel chromatography using MeOH in CH2Cl2 (0-10%) gave 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (27 mg, 19%). LC/MS: m/z 335.5 (M+H)+ at 1.28 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | benzyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 0.41 mmol, 0.19 g | C(C1=CC=CC=C1)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C28H28N4O3
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 27 mg, 19% | NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
